US07812173B2
3,3,6,6,-Tetramethyl-8a-butyl-tetrahydro-1,8-dioxa4a-aza-naphthalene
3-(3-Hydroxy-2,2-dimethyl-propylamino)-2,2-dimethyl-propan-1-ol (128.0 g, 0.68 mol), triethyl orthoacetate (162.0 g, 1.00 mol) and toluene sulfonic acid (2.0 g) were charged into a oven dried round bottom flask equipped with a stirring bar, distillation head and under nitrogen. The resulting solution was heated until the theoretical amount of methanol was collected. The reaction was cooled to room temperature and triethylamine added to neutralize the acid. Fractional vacuum distillations (twice) afforded the product as a water clear liquid, boiling point 101-103° C. at 0.44 torr. Yield: 156 g (90.5%).

reactant | 3-(3-Hydroxy-2,2-dimethyl-propylamino)-2,2-dimethyl-propan-1-ol | 0.68 mol, 128.0 g | OCC(CNCC(CO)(C)C)(C)C | C10H23NO2
reactant | triethyl orthoacetate | 1.00 mol, 162.0 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | toluene sulfonic acid | 2.0 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 3,3,6,6,-Tetramethyl-8a-butyl-tetrahydro-1,8-dioxa4a-aza-naphthalene | CC1(COC2(OCC(CN2C1)(C)C)CCCC)C | C15H29NO2
